US06455720B1
(1) Synthesis of 1,1-Bis(4-fluorophenyl)propanol
Into a reactor were introduced 10.0 g (40.6 mmol) of cerium chloride and 80 mL of THF under a nitrogen atmosphere. This mixture was stirred at room temperature for 20 hours and then cooled to 0° C. Thereto was added dropwise 25.1 mL (24.3 mmol; 0.97 M THF solution) of ethylmagnesium chloride over 30 minutes. Subsequently, a solution prepared by mixing 3.54 g (16.2 mmol) of 4,4′-difluorobenzophenone with 20 mL of THF was added dropwise thereto over 40 minutes, and this mixture was stirred for 1 hour. To the resultant reaction mixture was added 10% aqueous acetic acid solution. Thereafter, the mixture was extracted with ethyl acetate, and the resultant organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, subsequently dried with anhydrous magnesium sulfate, and then concentrated under reduced pressure. The concentrate was purified by column chromatography to obtain 3.12 g (78%) of the target compound as a light-yellow oily substance.

reactant | cerium chloride | 40.6 mmol, 10.0 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | ethylmagnesium chloride | 24.3 mmol, 0.97 M, 25.1 mL | C(C)[Mg]Cl
reactant | 4,4′-difluorobenzophenone | 16.2 mmol, 3.54 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1-Bis(4-fluorophenyl)propanol | 3.12 g, 78% | FC1=CC=C(C=C1)C(CC)(O)C1=CC=C(C=C1)F | C15H14F2O
